US07041696B2
Preparation of 6-[(Naphthalene-2-carbonyl)-amino]-5-oxo-1,2,3,5,6,7,10,10a-octahydro-pyrrolo[1,2-a]azocine-3-carboxylic acid (1-hydroxymethyl-3-methanesulfonylamino-3-oxo-propyl)-amide:
To a solution of 6-[(Naphthalene-2-carbonyl)-amino]-5-oxo-1,2,3,5,6,7,10,10a-octahydro-pyrrolo[1,2-a]azocine-3-carboxylic acid [1-(tert-butyl-dimethyl-silanyloxymethyl)-3-methanesulfonylamino-3-oxo-propyl]-amide (160 mg, 0.24 mmol) in THF (6 mL) at 0 C. is added HF in pyridine (0.3 mL). The solution is stirred at 0 C. for 1 h, poured into pH=7 phosphate buffer, and extracted with CH2Cl2. The combined organic extracts are washed with brine, dried (Na2SO4), filtered, and concentrated. The crude residue obtained is purified by flash chromatography on silica gel (CH2Cl2/MeOH) to yield 86 mg of desired product. 1H NMR (CDCl3) δ 8.34 (s, 1H), 7.91–7.79 (m, 4H), 7.49 (m, 2H), 7.09 (d, J=8.4 Hz, 1H), 5.88 (m, 2H, 5.45 (m, 1H), 4.43 (m, 1H), 4.20 (m, 2H), 3.04 (s, 3H), 3.80–1.80 (series of m, 12H).

reactant | 6-[(Naphthalene-2-carbonyl)-amino]-5-oxo-1,2,3,5,6,7,10,10a-octahydro-pyrrolo[1,2-a]azocine-3-carboxylic acid [1-(tert-butyl-dimethyl-silanyloxymethyl)-3-methanesulfonylamino-3-oxo-propyl]-amide | 0.24 mmol, 160 mg | C(C)(C)(C)[SiH2]OC(C(CC(=O)NS(=O)(=O)C)NC(=O)C1CCC2N1C(C(CC=CC2)NC(=O)C2=CC1=CC=CC=C1C=C2)=O)(C)C | C33H46N4O7SSi
reactant | phosphate | pH=7 | P(=O)([O-])([O-])[O-]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | pyridine | 0.3 mL | N1=CC=CC=C1 | C5H5N
product | 6-[(Naphthalene-2-carbonyl)-amino]-5-oxo-1,2,3,5,6,7,10,10a-octahydro-pyrrolo[1,2-a]azocine-3-carboxylic acid (1-hydroxymethyl-3-methanesulfonylamino-3-oxo-propyl)-amide | 86 mg | OCC(CC(=O)NS(=O)(=O)C)NC(=O)C1CCC2N1C(C(CC=CC2)NC(=O)C2=CC1=CC=CC=C1C=C2)=O | C27H32N4O7S
